US06921759B2
Benzyl 5-chloro-8-hydroxyquinoline-7-carboxamide
A mixture of 5-chloro-8-hydroxyquinoline-7-carboxylic acid (0.50 g, 2.24 mmol), benzylamine (0.29 g, 2.68 mmol), 1-hydroxy-7-azabenzotriazole (0.36 g, 2.68 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.51 g, 2.68 mmol), and triethylamine (0.62 mL, 4.47 mmol) in DMF (15 mL) was stirred at room temperature overnight. The reaction mixture was concentrated under vacuum. The residue was dissolved in DMSO and subjected to HPLC purification on C-18 stationary phase eluted with water/acetonitrile/TFA mobile phase. Collection and lyophilization of appropriate fractions provide the title compound as yellow solid.

reactant | 5-chloro-8-hydroxyquinoline-7-carboxylic acid | 2.24 mmol, 0.50 g | ClC1=C2C=CC=NC2=C(C(=C1)C(=O)O)O | C10H6ClNO3
reactant | benzylamine | 2.68 mmol, 0.29 g | C(C1=CC=CC=C1)N | C7H9N
reactant | 1-hydroxy-7-azabenzotriazole | 2.68 mmol, 0.36 g | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 2.68 mmol, 0.51 g | Cl.CN(CCCN=C=NCC)C
reactant | triethylamine | 4.47 mmol, 0.62 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | Benzyl 5-chloro-8-hydroxyquinoline-7-carboxamide | C(C1=CC=CC=C1)C1=NC2=C(C(=CC(=C2C=C1)Cl)C(=O)N)O | C17H13ClN2O2
